US07737138B2
N,N-Dimethyl-m-ethyl-p-phenylenediamine dihydrochloride
To a 250 cm3 round bottom flask was added N,N-dimethyl-m-ethylaniline (4.68 g, 31.3 mmol), water (100 cm3) and hydrochloric acid (8.5 cm3, 37%) and the solution was cooled to 5° C. An aqueous (80 cm3) solution of sodium nitrite (2.46 g, 3.57 mmol) was then added dropwise to the aniline mixture and stirred for 3 hours at room temperature. Iron (Fe) fillings (5.24 g, 94 mmol) and hydrochloric acid (8.5 cm3, 37%) were added and the mixture was stirred at room temperature for 3 hours. The suspension was filtered and the filtrate adjusted to pH 7 with sodium bicarbonate solution before extraction into ethyl acetate (3×50 cm3). The combined extracts were dried over magnesium sulphate, filtered, and concentrated to yield a brown oil. The oil was dissolved in ethanol (100 cm3) and diethyl ether (80 cm3) and hydrochloric acid (7 cm3, 37%) was added carefully to give the title compound (7.42 g, 72%) as a light tan solid. νmax (KBr)/cm−1: 2976 (CH), 2894 (CH), 2859 (CH), 2753 (CH), 1583 (C═N), 1508 (CH), 1486 (CH), 1459 (CH), 1183 (CH); dH (250 MHz; D2O): 7.66 (1H, s, ArH), 7.56 (2H, s, ArH), 3.29 (6H, s, NCH3), 2.74 (2H, q, 7.5, CH2), 1.25 (3H, t, 7.5, CH3); dC (62.9 MHz; CDCl3): 15.5 (CH3) 25.6 (NCH2), 48.9 (NCH3), 122.1 (ArC), 124.6 (ArC), 128.1 (ArC), 132.6 (ArC), 143.3 (ArC), 144.9 (ArC).

reactant | N,N-dimethyl-m-ethylaniline | 31.3 mmol, 4.68 g | CN(C1=CC(=CC=C1)CC)C | C10H15N
reactant | hydrochloric acid | 8.5 cm3 | Cl | ClH
reactant | sodium nitrite | 3.57 mmol, 2.46 g | N(=O)[O-].[Na+]
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | 8.5 cm3 | Cl | ClH
reactant | hydrochloric acid | 7 cm3 | Cl | ClH
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
catalyst | Iron | [Fe] | Fe
solvent | diethyl ether | 80 cm3 | C(C)OCC | C4H10O
solvent | water | 100 cm3 | O | H2O
product | N,N-Dimethyl-m-ethyl-p-phenylenediamine dihydrochloride | 7.42 g, 72% | Cl.Cl.CN(C1=CC(=C(C=C1)N)CC)C | InChI=1S/C10H16N2.2ClH/c1-4-8-7-9(12(2)3)5-6-10(8)11;;/h5-7H,4,11H2,1-3H3;2*1H
